US07304081B2
Step 1. 1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-ol
3-Pyrrolidinol (1.81 g, 0.0208 mol) was added to a mixture of 1-(4-chlorophenyl) cyclopropanecarboxylic acid (3.93 g, 0.0200 mol), benzotriazol-1-yloxytris(dimethylamino) phosphonium hexafluorophosphate (8.84 g, 0.0200 mol) and 4-methylmorpholine (9.00 mL, 0.0819 mol) in N,N-dimethylformamide (20.0 mL, 0.258 mol). The mixture was stirred at rt overnight. The mixture was diluted with ethyl acetate (100 mL) and was washed with NaHCO3 (7.5%, 3×30 mL). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was used directly in the next step without further purification.

reactant | 3-Pyrrolidinol | 0.0208 mol, 1.81 g | N1CC(CC1)O | C4H9NO
reactant | 1-(4-chlorophenyl) cyclopropanecarboxylic acid | 0.0200 mol, 3.93 g | ClC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9ClO2
reactant | benzotriazol-1-yloxytris(dimethylamino) phosphonium hexafluorophosphate | 0.0200 mol, 8.84 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-methylmorpholine | 0.0819 mol, 9.00 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-dimethylformamide | 0.258 mol, 20.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-ol | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1CC(CC1)O | C14H16ClNO2
